US07544688B2
4-[(2,2-Dimethyl-propyl)-(4-iodo-benzyl)-amino]-pyrimidine-2-carbonitrile (1.3 g, 2.5 mmoles), acrolein (0.5 ml, 7.4 mmoles), and triethylamine (0.4 ml, 3.1 mmoles) are dissolved in 25 ml of acetonitrile and Pd(OAc)2 (27 mg, 0.12 mmoles) is added at rt. The mixture is stirred at 80° C. for 18 h. Water is added and the organic layer is extracted with AcOEt, washed with brine, dried over magnesum sulfate and concentrated. The crude product is purified by silica gel column chromatography to give 423 mg of desired 4-{(2,2-dimethyl-propyl)-[4-((E)-3-oxo-propenyl)-benzyl]-amino}-pyrimidine-2-carbonitrile in 39% yield.

reactant | 4-[(2,2-Dimethyl-propyl)-(4-iodo-benzyl)-amino]-pyrimidine-2-carbonitrile | 2.5 mmoles, 1.3 g | CC(CN(C1=NC(=NC=C1)C#N)CC1=CC=C(C=C1)I)(C)C | C17H19IN4
reactant | acrolein | 7.4 mmoles, 0.5 ml | C(=O)C=C | C3H4O
reactant | triethylamine | 3.1 mmoles, 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
catalyst | Pd(OAc)2 | 0.12 mmoles, 27 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-{(2,2-dimethyl-propyl)-[4-((E)-3-oxo-propenyl)-benzyl]-amino}-pyrimidine-2-carbonitrile | 423 mg, 39% yield | CC(CN(C1=NC(=NC=C1)C#N)CC1=CC=C(C=C1)\C=C\C=O)(C)C | C20H22N4O
